US09216980B2
3-(4-piperidin-1-ylmethyl-phenyl)-6-(4H-1,2,4-triazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine (22.3 mg, 62.4 μmol), 1,2-diformylhydrazine (16.5 mg, 0.187 mmol), chloro-trimethylsilane (119 μL, 0.936 mmol) in triethylamine (60.9 μL, 0.437 mmol) and pyridine (340 μL) was heated under reflux for 30 minutes. The cooled reaction mixture was diluted with water, DCM, methanol and water. The layers were separated; the aqueous phase extracted with 20% MeOH in DCM, and the combined organic phase was concentrated in vacuo. The resultant residue was purified by preparative HPLC (0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as a yellow solid (21 mg, 81%). 1H NMR (DMSO-D6, 400 MHz): 12.50 (s, 1H), 9.25 (s, 2H), 8.99 (d, J=2.1 Hz, 1H), 8.94 (d, J=2.2 Hz, 1H), 8.86 (s, 1H), 8.73 (s, 1H), 7.76 (d, J=8.1 Hz, 2H), 7.46 (d, J=8.1 HZ, 2H), 3.50 (s, 2H), 2.35 (m, 4H), 1.58-1.46 (m, 4H), 1.41 (m, 2H). LCMS (Method D): RT=7.46 min, M+H+=410.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine | 62.4 μmol, 22.3 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N)N=C1 | C22H23N5
reactant | 1,2-diformylhydrazine | 0.187 mmol, 16.5 mg | C(=O)NNC=O | C2H4N2O2
reactant | chloro-trimethylsilane | 0.936 mmol, 119 μL | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 0.437 mmol, 60.9 μL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 340 μL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-(4-piperidin-1-ylmethyl-phenyl)-6-(4H-1,2,4-triazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 21 mg, 81% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N3C=NN=C3)N=C1 | C24H23N7
